US06821988B2
N-{4-[4-(Benzyloxy)-3-chloroanilino]-3-cyano-7-ethoxy-6-quinolinyl}-3,4-di(1-pyrrolidinyl)butanamide
An amount of 612 mg (1.1 mmol) of (E)-N-{4-[4-(benzyloxy)-3-chloroanilino]-3-cyano-7-ethoxy-6-quinolinyl}-4-chloro-2-butenamide, and (E)-N-{4-[4-(benzyloxy)-3-chloroanilino]-3-cyano-7-ethoxy-6-quinolinyl}-4-bromo-2-butenamide, were stirred in 6 mL of N,N-dimethylformamide and cooled to −50° C. Pyrrolidine (55 μL, 0.66 mmol), was added dropwise over a period of 30 min. After stirring for 2 hrs at −50° C., another 0.250 mL (3.0 mmol) of pyrrolidine was added dropwise over a period of 1.5 hrs, and the reaction mixture was warmed to room temperature for 16 hrs. A solution of saturated sodium bicarbonate was added, and the product was extracted with ethyl acetate and methylene chloride. Both organic layers were combined, dried over sodium sulfate, poured over a hydrous magnesium silicate plug, and evaporated to an oil. Purification was carried out by flash chromatography (40:4:2=ethyl acetate: methanol:ammonium hydroxide), and preparative thin layer chromatography (40:4:1=ethyl acetate:methanol:triethylamine), to give the title compound as an orange solid (284 mg, 40%), mp 85-87° C.; 1H NMR (DMSO-d6) δ10.59 (bs, 1H), 9.57 (s, 1H), 9.01 (s, 1H), 8.46 (s, 1H), 7.51-7.33 (m, 7H), 7.26-7.16 (m, 2H), 5.21 (s, 2H), 4.23 (q, 2H), 2.98 (bs, 1H), 2.71-2.60 (m, 8H), 2.49 (m, 2H) 1.74 (m, 5H), 1.64 (m, 5H), 1.43 (t, 3H); HRMS (ESI-FTMS) 653.29959 (M+1).

reactant | (E)-N-{4-[4-(benzyloxy)-3-chloroanilino]-3-cyano-7-ethoxy-6-quinolinyl}-4-chloro-2-butenamide | 1.1 mmol, 612 mg | C(C1=CC=CC=C1)OC1=C(C=C(NC2=C(C=NC3=CC(=C(C=C23)NC(\C=C\CCl)=O)OCC)C#N)C=C1)Cl | C29H24Cl2N4O3
reactant | (E)-N-{4-[4-(benzyloxy)-3-chloroanilino]-3-cyano-7-ethoxy-6-quinolinyl}-4-bromo-2-butenamide | C(C1=CC=CC=C1)OC1=C(C=C(NC2=C(C=NC3=CC(=C(C=C23)NC(\C=C\CBr)=O)OCC)C#N)C=C1)Cl | C29H24BrClN4O3
reactant | Pyrrolidine | 0.66 mmol, 55 μL | N1CCCC1 | C4H9N
reactant | pyrrolidine | 3.0 mmol, 0.250 mL | N1CCCC1 | C4H9N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | N-{4-[4-(Benzyloxy)-3-chloroanilino]-3-cyano-7-ethoxy-6-quinolinyl}-3,4-di(1-pyrrolidinyl)butanamide | 284 mg, 40% | C(C1=CC=CC=C1)OC1=C(C=C(NC2=C(C=NC3=CC(=C(C=C23)NC(CC(CN2CCCC2)N2CCCC2)=O)OCC)C#N)C=C1)Cl | C37H41ClN6O3
